US07358248B2
(2R)-Methyl-3-(4-amino-benzylsulfanyl)-2-tert-butoxycarbonylamino-propionate
A mixture of (2R)-methyl-2-tert-butoxycarbonylamino-3-(4-nitro-benzylsulfanyl)-propionate (3.75 g, 10.1 mmol) and tin (II) chloride (5.76 g, 30.0 mmol) in methanol (50 mL) was stirred at 50° C. Upon completion (TLC: 5% methanol in dichloromethane), the mixture was cooled to room temperature, quenched with saturated potassium fluoride solution (75 mL) and extracted with diethyl ether (3×75 mL). The combined extract was washed sequentially with water and brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Flash chromatography purification (SiO2; 1-2% methanol in dichloromethane as eluent) yielded the titled compound as an off-white solid. 1H NMR (CDCl3, 300 MHz) δ 7.08 (2H, d, J=8 Hz, ArH), 6.25 (2H, d, J=8 Hz, ArH), 4.53 (1H, m, CHN), 3.75 (3H, s, OCH3), 3.63 (2H, s, PhCH2S), 2.84 (2H, m, CH2CHN), 1.46 (9H, s, CMe3); ESI-LCMS e/z calculated for C16H24N2O4S 340.146. found 341 (M+H)+, 363 (M+Na)+.

reactant | (2R)-methyl-2-tert-butoxycarbonylamino-3-(4-nitro-benzylsulfanyl)-propionate | 10.1 mmol, 3.75 g | COC([C@H](CSCC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)OC(C)(C)C)=O | C16H22N2O6S
reactant | tin (II) chloride | 30.0 mmol, 5.76 g | [Sn](Cl)Cl
solvent | methanol | 50 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2R)-Methyl-3-(4-amino-benzylsulfanyl)-2-tert-butoxycarbonylamino-propionate | COC([C@H](CSCC1=CC=C(C=C1)N)NC(=O)OC(C)(C)C)=O | C16H24N2O4S
